US07994185B2
Step B: N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}cyclopropanesulfonamide
A suspension of N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}cyclopropanesulfonamide (125 mg, 0.252 mmol) and 7M ammonia in MeOH (7 mL, 0.49 mmol) was heated in a sealed tube to 80° C. for 2 days. The reaction was diluted with DCM and added silica gel and concentrated. The crude product was chromatographed on silica gel eluting with 100% DCM to 1:1 [DCM:(9:1 EtOAc:MeOH)]. The clean fractions were concentrated to yield the crude product as a yellow solid (62 mg). The crude product was repurified by reverse phase HPLC (a gradient of acetonitrile:water with 0.1% TFA in both). The combined clean fractions were concentrated then partitioned between DCM and saturated NaHCO3. The DCM layer was separated and dried over Na2SO4. The title compound was obtained as a yellow solid (26 mg, 21% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 9.67 (s, 1H), 7.86 (d, J=5.4 Hz, 1H), 7.49 (td, J=7.4, 2.2 Hz, 1H), 7.11-7.38 (m, 2H), 6.53 (s, 2H), 5.84 (d, J=5.3 Hz, 1H), 3.68 (t, J=4.7 Hz, 4H), 3.43 (t, J=4.7 Hz, 4H), 2.53-2.68 (m, 1H), 0.74-0.92 (m, 4H). MS (ESI): 477.0 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}cyclopropanesulfonamide | 0.252 mmol, 125 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1CC1)F | C20H19ClFN5O3S2
reactant | ammonia | 7M | N | H3N
reactant | MeOH | 0.49 mmol, 7 mL | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}cyclopropanesulfonamide | NC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1CC1)F | C20H21FN6O3S2
